US05574055
1.12 g (3.5 mmol) of ethyl 4-(4-ethoxycarbonylamino-phenyl)-piperidine-1-carboxylate were treated with 4.0 g (30.28 mmol) of (RS)-4-(methoxymethyl)-1,3-dioxolan-2-one in the presence of 276.8 mg (3.5 mmol) of pyridine and stirred intensively for 18 hours at an oil bath temperature of 160°. After cooling the reaction mixture was chromatographed on 125 g of silica gel 60 with ether. After recrystallization from methylene chloride/isopropyl ether there were obtained 976 mg of ethyl (RS)-4-[4-(5-methoxymethyl-2-oxo-oxazolidin-3-yl)-phenyl]-piperidine-1-carboxylate. M.p.: 86°-88°.

reactant | ethyl 4-(4-ethoxycarbonylamino-phenyl)-piperidine-1-carboxylate | 3.5 mmol, 1.12 g | C(C)OC(=O)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OCC | C17H24N2O4
reactant | (RS)-4-(methoxymethyl)-1,3-dioxolan-2-one | 30.28 mmol, 4.0 g | COCC1OC(OC1)=O | C5H8O4
reactant | pyridine | 3.5 mmol, 276.8 mg | N1=CC=CC=C1 | C5H5N
product | ethyl (RS)-4-[4-(5-methoxymethyl-2-oxo-oxazolidin-3-yl)-phenyl]-piperidine-1-carboxylate | 976 mg | COCC1CN(C(O1)=O)C1=CC=C(C=C1)C1CCN(CC1)C(=O)OCC | C19H26N2O5
